US07138425B2
f) 2-[4-Methoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-phenylbenzoxazole (420 mg, 1.42 mmol) and 1,2,4-benzenetricarboxylic anhydride (273 mg, 1.42 mmol) the title compound was obtained, (460 mg, 66%). 1H NMR (DMSO) δ 13.85(s, 1H), 8.51(dd, 1H), 8.41(s, 1H), 8.29(d, 1H), 8.16(m, 2H), 7.95(d, 1H), 7.81(m, 4H), 7.58(m, 2H), 7.54(d, 1H), 7.48(d, 1H), 4.12(s, 3H). MS 491 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-phenylbenzoxazole | 1.42 mmol, 420 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H16N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 1.42 mmol, 273 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H18N2O6
